US04801593
Isoflavanone (0.90 g) was dissolved in a mixture of acetic acid (15 ml) and concentrated hydrochloric acid (1.5 ml). and the solution added to zinc amalgam prepared from zinc powder (2.5 g) and mercuric chloride (0.25 g). The mixture was stirred for 45 min., then allowed to stand at room temperature for 18 hrs. The mixture was filtered and the filtrate diluted with water. The precipitated oil was extracted into toluene and the extract washed with saturated sodium hydrogen bicarbonate solution, dried, and evaporated. The residue was chromatographed on alumina, eluting with petroleum ether, (60°-80°) to give, on evaporation of the eluate, pure isoflavan, 0.23 g., m.pt. 54°-56°.

reactant | Isoflavanone | 0.90 g | O1CC(C(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C15H12O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 1.5 ml | Cl | ClH
catalyst | zinc | 2.5 g | [Zn] | Zn
product | isoflavan | O1CC(CC2=CC=CC=C12)C1=CC=CC=C1 | C15H14O
